US08609657B2
4-(5-{[(2R,6S)-2,6-Dimethyl-4-morpholinyl]methyl}-1,3-oxazol-2-yl)-6-(1H-indol-4-yl)-1H-indazole
To a solution of 6-chloro-4-(5-{[(2R,6S)-2,6-dimethyl-4-morpholinyl]methyl}-1,3-oxazol-2-yl)-1-(phenylsulfonyl)-1H-indazole (50 mg, 0.103 mmol) in 1,4-dioxane (1.5 ml) and water (0.15 ml) was added {1-[1,1,-dimethylethyl)(dimethyl)silyl]1-H-indol-4-yl}boronic acid (37 mg, 0.133 mmol), chloro[2′-(dimethylamino)-2-biphenylyl]palladium-(1R,4S)-bicyclo[2.2.1]hept-2-yl[(1S,4R)-bicyclo[2.2.1]hept-2-yl]phosphane (5.75 mg, 10.27 μmol) and potassium phosphate tribasic (65 mg, 0.308 mmol). The reaction mixture was heated under microwave irradiation at 100° C. for 40 min. The solvent was removed and the residue dissolved in 10% methanol in dichloromethane (2 ml) and purified by silica gel chromatography, eluting with a gradient of cyclohexane and ethyl acetate. The appropriate fractions were concentrated to give a brown gum which was treated directly with tetra-n-butylammonium fluoride (0.2 ml, 0.2 mmol, 1M in tetrahydrofuran) and allowed to stand at 20° C. for 18 h. The solvent was removed and the residue dissolved in 1,4-dioxane (1 ml) and treated with 2M sodium hydroxide (1 ml) and allowed to stand at 20° C. for 48 h. The solvent was removed and the residue triturated with 10% methanol in dichloromethane then purified by silica gel chromatography, eluting with a gradient of dichloromethane and methanol to give a pale brown solid which was further purified by SCX SPE (1 g), eluting with 0.5M ammonia in 1,4-dioxane. The solvent was removed and the residue further purified by MDAP to give the title compound as a white solid (14 mg). LCMS (Method A): Rt 0.70 mins, MH+ 428.

reactant | 6-chloro-4-(5-{[(2R,6S)-2,6-dimethyl-4-morpholinyl]methyl}-1,3-oxazol-2-yl)-1-(phenylsulfonyl)-1H-indazole | 0.103 mmol, 50 mg | ClC1=CC(=C2C=NN(C2=C1)S(=O)(=O)C1=CC=CC=C1)C=1OC(=CN1)CN1C[C@H](O[C@H](C1)C)C | C23H23ClN4O4S
reactant | potassium phosphate tribasic | 0.308 mmol, 65 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | tetra-n-butylammonium fluoride | 0.2 mmol, 1M, 0.2 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | 1,4-dioxane | 1.5 ml | O1CCOCC1 | C4H8O2
solvent | water | 0.15 ml | O | H2O
catalyst | chloro[2′-(dimethylamino)-2-biphenylyl]palladium (1R,4S)-bicyclo[2.2.1]hept-2-yl[(1S,4R)-bicyclo[2.2.1]hept-2-yl]phosphane | 10.27 μmol, 5.75 mg | Cl[Pd]C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C.[C@@H]12C(C[C@@H](CC1)C2)PC2[C@H]1CC[C@@H](C2)C1
product | 4-(5-{[(2R,6S)-2,6-Dimethyl-4-morpholinyl]methyl}-1,3-oxazol-2-yl)-6-(1H-indol-4-yl)-1H-indazole | 14 mg | C[C@@H]1CN(C[C@@H](O1)C)CC1=CN=C(O1)C1=C2C=NNC2=CC(=C1)C1=C2C=CNC2=CC=C1 | C25H25N5O2
